US08981085B2
A mixture of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-methylisoxazole-3-carboxamide (200 mg, 0.590 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (591 mg, 2.95 mmol) in n-BuOH (5 mL) was stirred at 150° C. for 24 hours in a sealed tube. The reaction mixture was then concentrated in vacuo, and the liquid residue was purified by C-18 reverse phase flash chromatography (Biotage C-18 Flash 25M+) on Biotage SP4 unit eluting with 10-80% CH3CN/water gradient (24 CV). The product isolated was crystallized from MeOH/CH3CN to provide (R)-tert-butyl 1-(5-bromo-3-(5-methylisoxazole-3-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (40 mg, 13% yield) as a solid. LCMS (APCI+) m/z 519, 521 (M+H)+, Retention time=4.08 minutes (Method 2).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-methylisoxazole-3-carboxamide | 0.590 mmol, 200 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NOC(=C2)C)F | C12H8BrFN4O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.95 mmol, 591 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(5-methylisoxazole-3-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 40 mg, 13% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NOC(=C2)C)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H27BrN6O4
